US07173025B1
Using an analogous procedure to that described in Example 1, N-(4-pyridyl)piperazine was reacted with 4-(2-naphthylsulphonyl)benzoic acid to give 1-[4-(2-naphthylsulphonyl)benzoyl]-4-(4-pyridyl)piperazine in 32% yield;

reactant | N-(4-pyridyl)piperazine | N1=CC=C(C=C1)N1CCNCC1 | C9H13N3
reactant | 4-(2-naphthylsulphonyl)benzoic acid | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)O)C=C1 | C17H12O4S
product | 1-[4-(2-naphthylsulphonyl)benzoyl]-4-(4-pyridyl)piperazine | 32% yield | C1=C(C=CC2=CC=CC=C12)S(=O)(=O)C1=CC=C(C(=O)N2CCN(CC2)C2=CC=NC=C2)C=C1 | C26H23N3O3S
